US05932571
Synthesis of 4-(1-(5-hydroxymethylfur-2-ylmethyl)-1H-benzimidazol-2-yl)[1,4]diazepane
Combine 2-chloro-1-(5-ethyoxycarbonylfur-2-ylmethyl)-1H-benzimidazole (9.50 g, 31.2 mmol) and [1,4]diazepane (6.24 g, 62.3 mmol), 1,8-diazabicyclo[5.4.0]undec-7-ene (5.6 mL, 37.4 mmol), and pyridine (90 mL). Heat to reflux. After 18 hours, cool to ambient temperature and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with methanol and then 2% concentrated aqueous ammonia/methanol to give 4-(1-(5-ethyoxycarbonylfur-2-ylmethyl)-1H-benzimidazol-2-yl)[1,4]diazepane. Combine 4-(1-(5-ethyoxycarbonylfur-2-ylmethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (1.0 g, 2.7 mmol) and tetrahydrofuran (10 mL). Add a solution of lithium aluminum hydride (2.7 mL, 1.0 M in tetrahydrofuran, 2.7 mmol). After 18 hours pour the reaction mixture into a beaker, dilute with dichloromethane, and cool to 0° C. With stirring add portionwise, Glauber's salt (Na2SO4.10H2O) until the evolution of gas ceases. Add dichloromethane to about double the volume, add celite, stir to form a thick slurry, and filter. Evaporate the filtrate in vacuo to give the title compound.

reactant | 4-(1-(5-ethyoxycarbonylfur-2-ylmethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 2.7 mmol, 1.0 g | C(C)OC(=O)C1=CC=C(O1)CN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | C20H24N4O3
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | lithium aluminum hydride | 2.7 mmol, 1.0 M, 2.7 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Glauber's salt | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(1-(5-hydroxymethylfur-2-ylmethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | OCC1=CC=C(O1)CN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | C18H22N4O2
